US08536210B2
Step 1: 2-Methyl-3-oxo-5-piperidino-2,3-dihydropyridazine-4-carbaldehyde
A solution of 2-methyl-5-(piperidin-1-yl)pyridazin-3(2H)-one [F. Farina, M. V. Martin and A. Tito, An. Quim., 77, 188-195 (1981)] (1.35 g, 7 mmol) in dry DMF (23.3 ml) was cooled to 5° C., then a solution of POCl3 (1.44 ml, 15.4 mmol) in dry DMF (3.5 ml) was added dropwise. The cooling bath was removed and the mixture was stirred at room temperature for 30 min. Then, the temperature was raised to 70° C. and stirring was continued for 75 min. After cooling, the volatile components were removed under reduced pressure and the residue was treated with crushed ice (15 g). The mixture was adjusted to pH 7-8 with aqueous NaOH. Then it was extracted with dichloromethane (4×40 ml) and the combined extracts were washed with water, dried (Na2SO4) and evaporated. Residual volatile material was removed at 10−2 mbar to leave an oily residue which slowly solidified on storage in a refrigerator.

reactant | 2-methyl-5-(piperidin-1-yl)pyridazin-3(2H)-one | CN1N=CC(=CC1=O)N1CCCCC1 | C10H15N3O
reactant | POCl3 | 15.4 mmol, 1.44 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 23.3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | 2-Methyl-3-oxo-5-piperidino-2,3-dihydropyridazine-4-carbaldehyde | CN1N=CC(=C(C1=O)C=O)N1CCCCC1 | C11H15N3O2
